* C:\Users\andyv\Google Drive\source\repos\MLoptLVDS180\ltspice\lvds_rcvr_v1.asc
M1 pulseout pulsein 0 0 NMOS l=0.18u w=0.5u
M2 pulseout pulsein vdd vdd PMOS l=0.18u w=1u
V1 vdd 0 1.8
V2 pulsein 0 PULSE(0 1.8 100f 10f 10f 0.5n 1n)
C1 pulseout 0 10f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\andyv\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2n 0
.backanno
.end
